US09447046B2
Preparation 229a: 4-bromo-2-(chloromethyl)-1-iodobenzene
To a solution of (5-bromo-2-iodophenyl)methanol (1.4 g, 4.5 mmol) in DCM (20 mL) was added SOCl2 (3.2 g, 26.9 mmol) at 0° C., and the reaction was stirred at rt overnight. The solution was concentrated, and the residue was purified silica gel chromatography (PE) to give 1.2 g (81%) of the title compound as a brown solid.

reactant | (5-bromo-2-iodophenyl)methanol | 4.5 mmol, 1.4 g | BrC=1C=CC(=C(C1)CO)I | C7H6BrIO
reactant | SOCl2 | 26.9 mmol, 3.2 g | O=S(Cl)Cl | Cl2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-(chloromethyl)-1-iodobenzene | 1.2 g, 81% | BrC1=CC(=C(C=C1)I)CCl | C7H5BrClI
